US06800627B1
7-Chloro-8-fluoro-1,2,3,4-tetrahydropyrazino[1,2-a]indole
Paraformaldehyde (0.95 g, 30 mmol) was added in 1 portion to a stirred solution of 1-(6-chloro-7-fluoroindol-1-yl)-2-ethylamine (1.3 g, 6.1 mmol) and magnesium sulfate (1.5 g) in dichloromethane (15 mL) at room temperature under Ar. The reaction was stirred at room temperature for 4 h then filtered. The filter-cake was washed with dichloromethane (50 mL) and the filtrate was concentrated under vacuum to leave a crude oil. The oil was dissolved in dichloromethane (10 mL) and trifluoroacetic acid (2 mL) was added. The reaction was stirred at room temperature under Ar for 10 min then basified by pouring into saturated aqueous sodium hydrogen carbonate solution (100 mL). The mixture was extracted with ethyl acetate (3×80 mL) and the combined organic extracts were washed with brine (1×80 mL), dried (magnesium sulfate), filtered and the solvent removed under vacuum to leave a crude oil. The oil was purified by flash column chromatography [SO2; ethyl acetate-methanol-ammonium hydroxide (9:1:0)—(90:9:1)] to give the product as a yellow oil that crystallised on standing (0.32 g, 23%). NMR δH (400 MHz; CDCl3) 7.25-727 (2H, m), 6.14 (1H, s), 4.20 (2H, s), 3.95 (2H, t, J 5.5 Hz), 3.35 (2H, t, J 5.5 Hz).

reactant | Paraformaldehyde | 30 mmol, 0.95 g | C=O | CH2O
reactant | 1-(6-chloro-7-fluoroindol-1-yl)-2-ethylamine | 6.1 mmol, 1.3 g | ClC1=CC=C2C=CN(C2=C1F)CCN | C10H10ClFN2
reactant | magnesium sulfate | 1.5 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate | 100 mL | C(O)([O-])=O.[Na+]
reactant | dichloromethane | 15 mL | ClCCl | CH2Cl2
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 7-Chloro-8-fluoro-1,2,3,4-tetrahydropyrazino[1,2-a]indole | ClC=1C(=CC=2C=C3N(C2C1)CCNC3)F | C11H10ClFN2
